US08748012B2
A solution of 3-bromo-9H-carbazole (10.00 g, 40.6 mmol), acetic anhydride (8.30 g, 81 mmol) together with 2 drops of H2SO4 in chloroform (150 mL) was refluxed overnight. After cooling to room temperature, the solution was washed with water. Upon evaporation of the solvent, the crude product was purified by crystallization from hexane/DCM and hexane/EtOAc to yield 1-(3-bromo-9H-carbazol-9-yl)ethanone (6.1 g, 51% yield) as a light yellow solid.

reactant | 3-bromo-9H-carbazole | 40.6 mmol, 10.00 g | BrC=1C=CC=2NC3=CC=CC=C3C2C1 | C12H8BrN
reactant | acetic anhydride | 81 mmol, 8.30 g | C(C)(=O)OC(C)=O | C4H6O3
catalyst | H2SO4 | 2 drops | OS(=O)(=O)O | H2O4S
solvent | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-(3-bromo-9H-carbazol-9-yl)ethanone | 6.1 g, 51% yield | BrC=1C=CC=2N(C3=CC=CC=C3C2C1)C(C)=O | C14H10BrNO
